US06399606B1
Ethyl 3-({2-[N-Butyl(cyclohexylamino)carbonylamino]ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoate
The title compound was prepared from ethyl 3 {[2-(butylamino)ethylthio] methyl}-4-oxo-4-(3-pyridyl)butanoate and cyclohexylisocyanate as described in the above Example 35 in 48% yield; ESMS (M+1+) 478.

reactant | ethyl 3 {[2-(butylamino)ethylthio] methyl}-4-oxo-4-(3-pyridyl)butanoate | C(CCC)NCCSCC(CC(=O)OCC)C(C=1C=NC=CC1)=O | C18H28N2O3S
reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | Ethyl 3-({2-[N-Butyl(cyclohexylamino)carbonylamino]ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoate | 48% yield | C(CCC)N(CCSCC(CC(=O)OCC)C(C=1C=NC=CC1)=O)C(=O)NC1CCCCC1 | C25H39N3O4S
